Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ y/o F with recently diagnosed pancreatic Ca, 
recent PE on lovenox, CAD, CHF, and COPD who was sent from her 
nursing facility to ___ ED with CC of dyspnea. 

The patient was drinking water in the company of her family 
today. Noted to be choking on the fluid and then became acutely 
onset SOB.  

In ED initial VS were 97.4 115 ___ 18 100% Non-Rebreather. 
Labs were performed showing a normal WBC but with a left shift. 
Cr of 1.4 (baseline 0.8). A CXR was performed showing 
significantly increased basal opacities thought to be a 
combination of effusion and consolidation. An ECG was done 
showing afib w/ RVR that is new. The patient was started on IVF 
and vanc/cefepime/flagyl. Her oxygen requirement began to 
improve and her HR slowed. DNR/DNI status confirmed with family. 
Admitted to medicine for further management and possible shift 
towards more palliative focus.

She was reportedly alert and oriented and breathing at a rate in 
the ___ in the ED, but on arrival to the floor, she was 
somnolent, minimally responsive and respiratory rate varied from 
46-60. Systolics in the ___ (range in outpatient 92-110 
systolic). She was maintaining her sats on 5L NC, but there was 
concern for deteriorating mental and respiratory status. ABG 
done on the floor showed pH 7.33 pCO2 65 pO2 210. Unclear 
baseline pCO2, but has known COPD and last admission pCO2 ranged 
49-79 (last CO2 after biPAP in 49-54 range). In the setting of 
acute deterioration, the family actually wanted to reverse her 
code status and she was transferred to the unit for further 
management as a full code.  
 
Past Medical History:
1.  CAD
2.  CHF (NYHA II) - EF < 20%
3.  HL
4.  COPD
5.  PE and portal vein thrombosis found during admission 
___, on lovenox 
6.  DIC duing admission ___
7.  Open angle glaucoma on 3x eye gtt
8.  Optic Drusen
9.  ?mild CKD (historic GFR @Atrius varies ___
10.  DMII - Diet controlled

 
Social History:
___
Family History:
Non-contributory

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: afebrile. HR 98. RR 60. SBP 98.
GENERAL: somnolent, minimally responsive to pain, mumbling, eyes 
halfway shut but not fully closed. cachectic elderly lady with 
hair kerchief on, chronically unwell appearing, in mod-severe 
respiratory distress
HEENT: AT/NC, anicteric sclera, pink conjunctiva, patent nares, 
mm dry, nontender supple neck, no LAD, no JVD  
CARDIAC: regular rate, S1/S2, no murmurs, gallops, or rubs
LUNG: CTAB, no wheezes, rales, rhonchi, but using accessory 
muscles, increased WOB
ABDOMEN: thin, nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: unable to follow commands clearly, no cyanosis, no 
edema
PULSES: bounding pulses @ radial  
NEURO: unable to test CN as patient will not respond to 
commands. somnolent. oriented to ___, doesn't know year, 
knows name
SKIN: cool extremities, no excoriations or lesions, no rashes

 
Pertinent Results:
___ 04:56AM BLOOD WBC-8.2 RBC-3.28* Hgb-9.4* Hct-29.3* 
MCV-89 MCH-28.6 MCHC-32.0 RDW-15.6* Plt ___
___ 02:09AM BLOOD WBC-7.8 RBC-2.96* Hgb-8.2* Hct-26.8* 
MCV-91 MCH-27.7 MCHC-30.6* RDW-15.4 Plt ___
___ 11:43AM BLOOD WBC-9.4 RBC-3.21* Hgb-9.4* Hct-29.2* 
MCV-91 MCH-29.3 MCHC-32.2 RDW-15.5 Plt ___
___ 02:09AM BLOOD Neuts-87.7* Lymphs-10.0* Monos-2.3 
Eos-0.1 Baso-0
___ 11:43AM BLOOD Neuts-91* Bands-0 Lymphs-6* Monos-2 Eos-0 
Baso-0 Atyps-1* ___ Myelos-0
___ 04:56AM BLOOD ___ PTT-33.3 ___
___ 02:09AM BLOOD ___ PTT-26.5 ___
___ 11:43AM BLOOD ___ PTT-32.7 ___
___ 04:56AM BLOOD Glucose-87 UreaN-54* Creat-1.7* Na-147* 
K-4.0 Cl-106 HCO3-30 AnGap-15
___ 02:09AM BLOOD Glucose-111* UreaN-41* Creat-1.5* Na-144 
K-4.5 Cl-104 HCO3-31 AnGap-14
___ 11:43AM BLOOD Glucose-166* UreaN-36* Creat-1.4* Na-144 
K-4.7 Cl-101 HCO3-29 AnGap-19
___ 04:56AM BLOOD ALT-20 AST-20 AlkPhos-85 Amylase-350* 
TotBili-0.5
___ 02:09AM BLOOD CK(CPK)-21*
___ 11:43AM BLOOD CK(CPK)-26*
___ 04:56AM BLOOD Lipase-199*
___ 02:09AM BLOOD CK-MB-2 cTropnT-0.04*
___ 11:43AM BLOOD cTropnT-0.05*
___ 04:56AM BLOOD Calcium-9.2 Phos-4.9* Mg-1.8
___ 02:09AM BLOOD Calcium-9.0 Phos-4.8* Mg-1.8
___ 07:41AM BLOOD Type-ART pO2-102 pCO2-67* pH-7.35 
calTCO2-39* Base XS-7
___ 12:07AM BLOOD Type-ART pO2-80* pCO2-47* pH-7.46* 
calTCO2-34* Base XS-8
___ 06:31PM BLOOD Type-ART pO2-210* pCO2-65* pH-7.33* 
calTCO2-36* Base XS-6
.
CXR ___
IMPRESSION:  Increasing lower lung opacities, left greater than 
right, likely representing a combination of effusion and 
consolidation. 
.
___ Renal u/s:
IMPRESSION: 
1.  Unchanged echogenic kidneys without frank hydronephrosis  
2.  Incomplete evaluation of known renal cystic lesions due to 
limited 
acoustic window 
3.  Moderate ascites  
.
CXR ___:
 
FINDINGS:  In comparison with the study of ___, there is little 
overall 
change.  Again there is substantial enlargement of the cardiac 
silhouette with bilateral layering, pleural effusions and 
compressive atelectasis at the bases.  Extensive retrocardiac 
opacification with obscuration of the 
hemidiaphragm is consistent with volume loss in the left lower 
lobe.  In the appropriate clinical setting, supervening 
pneumonia would have to be 
considered.  Cardiomediastinal silhouette is stable. 
.
___ ruq u/s:
IMPRESSION: 
1.  Mild left intrahepatic pneumobilia, likely related to recent 
biliary 
Wallstent placement. 
2.  Mild fullness of the right renal collecting system with 
echogenic renal cortex, incompletely visualized. 
3.  Small amount of floating gallbladder sludge.  No evidence of 

cholelithiasis or cholecystitis. 
.
Microbiology:
___ MRSA SCREEN MRSA SCREEN-FINAL INPATIENT 
___ URINE Legionella Urinary Antigen -FINAL 
INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 

 
Brief Hospital Course:
___ y/o F with multiple medical problems including heart failure, 
COPD, pancreatic cancer who was initially admitted to the ICU 
with respiratory distress and transitioned to comfort measures 
only care.  
.
#goals of care-Pt with multiple medical problems including 
severe heart failure, COPD, pancreatic cancer who was admitted 
with respiratory distress and initially admitted to the oncology 
service and transferred to the ICU. In the ICU, goals of care 
conversations were had with the ICU team, oncology, and the 
patient and her family. All decided that pt would be comfort 
measures only with focus of care on symptom management (no IV 
antibiotics, lovenox, blood draws etc). Non essential 
medications were stopped in the ICU including antibiotics. She 
was transitioned out of the ICU on ___ evening and given 
morphine as needed for significant tachypnea. The morning of 
___ pt was tachypneic, but not following commands or 
answering questions. Comfort care continued  given significant 
tachypnea. The patient passed away on ___ at 117pm. Her 
family/dtr ___ was at the bedside.
.
By problem:
# Pancreatitis: Abdominal guarding on AM of ___. Ischemic bowel 
was considered but lactate was found to be normal. KUB showed no 
obstruction. RUQ ultrasound did not show any acute process. 
Patient was initially  started on Cefepime and Flagyl for 
empiric treatment of GI infection. Lipase was elevated.
.
#. Hypercarbic Respiratory Distress possibly PNA and COPD and 
likely multifactoral.  At admission differential included 
asthma/COPD exacerbation, PNA, atelectasis, aspiration.  Given 
HPI concern for aspiration.  It is possible that she had an 
aspiration event causing tachypnea and dynamic hyperinflation 
causing air trapping and increase deadspace resulting in 
hypercarbic respiratory failure.  She also seemed to have 
increased pulmonary edema that could be contributing to her 
dyspnea and poor ventilation.
.
#. Afib w/ RVR - New diagnosis. Most likely related to increased 
sympathetic outflow given acute insult. Repeat EKG showed normal 
sinus rhythm. Metoprolol was switched to tartrate while she was 
in the ICU. Lovenox was initially continued for anticoagulation. 
   

#. ___ -admitted with creatinine of 1.7. Ddx includied CHF 
excaerbation vs. infection vs. obstruction. Renal u/s 
unrevealing. Dry on initial exam.
.
#. Pancreatic CA - Not a chemo/surgical candidate per oncology. 
See goals of care above.
.
# Bladder mass: at OSH U/S showed polypoid mass arising from the 
left posterior bladder wall caudal to the left ureterovesical 
junction measuring 8 x 7 mm x 4 mm and this was suggestive of 
superficial transitional cell carcinoma of the bladder.
Renal U/S : negative for hydronephrosis. Cytlogy unclear during 
admission.
.
#. PE/PVT: Initially continued on lovenox. Discontinued in the 
ICU.
.
# CHF: Weights in her outpatient records varied from 92lb to 
106lb.  She was 98.1lbs in the ICU. CXR and U/S consistent with 
fluid overload.  Cytology of pleural fluid on last admission was 
negative for malignancy. This was felt to be related to CHF.
.
CHRONIC ISSUES:
#. Anemia - Presently anemic but near baseline. During last 
admission it was felt the patient had DIC as partial cause for 
her anemia. Per notes from atrius she has sicke cell trait 
leading to mild anemia. Initially continued on Fe 
supplementation  

#. DMII: Initially on HISS 

#. Glaucoma: Initially continued home Tx  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN Wheezing 
2. Betaxolol Ophth Susp  0.25% 1 DROP BOTH EYES BID 
3. Furosemide 40 mg PO DAILY 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
5. Spironolactone 25 mg PO DAILY 
6. Atorvastatin 20 mg PO DAILY 
7. Docusate Sodium (Liquid) 100 mg PO BID 
8. Enoxaparin Sodium 50 mg SC Q24H 
9. Senna 1 TAB PO BID:PRN Constipation 
10. Metoprolol Succinate XL 50 mg PO DAILY 
11. Multivitamins 1 TAB PO DAILY 
12. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
13. Calcium Carbonate 500 mg PO DAILY 
14. Ferrous Sulfate 325 mg PO DAILY 
15. Fluticasone Propionate 110mcg 2 PUFF IH BID 

 
Discharge Medications:
none
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
expired
 
Discharge Condition:
expired
 
Discharge Instructions:
expired
 
Followup Instructions:
___